US09210927B2
Preparation of (E)-2-(2-Bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzamido)acetic acid (AI78)
To a stirred solution of (E)-tert-butyl 2-(2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzamido)acetate (440 mg, 0.734 mmol) in CH2Cl2 (36.0 ml), was added TFA (4.0 mL) and the reaction mixture was stirred at ambient temperature for 1 h. The reaction mixture was concentrated under reduced pressure to obtain residue which was washed with n-pentane to afford the title compound as an off-white solid (310 mg, 78%): 1H NMR (400 MHz, CDCl3) δ 13.0 (s, 1H), 8.75 (t, J=5.7 Hz, 1H), 7.93 (m, 2H), 7.62 (d, J=7.5 Hz, 1H), 7.40 (d, J=8.1 Hz, 1H), 6.96 (dd, J=15.3, 9.3 Hz, 1H), 6.78 (d, J=15.3 Hz, 1H), 4.83 (m, 1H), 3.90 (d, J=5.7 Hz, 2H); ESIMS m/z 543.61 ([M+H]+); IR (thin film) 3429, 1635, 1114, 772 cm−1.

reactant | (E)-tert-butyl 2-(2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzamido)acetate | 0.734 mmol, 440 mg | BrC1=C(C(=O)NCC(=O)OC(C)(C)C)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C23H20BrCl3F3NO3
reactant | TFA | 4.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 36.0 ml | C(Cl)Cl | CH2Cl2
product | (E)-2-(2-Bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzamido)acetic acid | 310 mg, 78% | BrC1=C(C(=O)NCC(=O)O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C19H12BrCl3F3NO3
